US09399635B2
(1) Synthesis of 2-methoxy-4-(2-pyridylmethoxy)benzaldehyde
In 53 mL of N,N-dimethylformamide were dissolved 8.00 g (52.6 mmol) of 4-hydroxy-2-methoxybenzaldehyde, 14.5 g (105 mmol) of potassium carbonate, and 9.06 g (55.2 mmol) of 2-chloromethylpyridine hydrochloride and the solution was stirred at 50° C. for 4 hours. To the reaction mixture, 260 mL of water was added at room temperature and the precipitated crystal was separated by filtration. The crystal was washed with water and dried under reduced pressure to give 11.5 g (82% yield) of the title compound as a pale grey-brown powder with the following properties.

reactant | 4-hydroxy-2-methoxybenzaldehyde | 52.6 mmol, 8.00 g | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | potassium carbonate | 105 mmol, 14.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloromethylpyridine hydrochloride | 55.2 mmol, 9.06 g | Cl.ClCC1=NC=CC=C1
reactant | water | 260 mL | O | H2O
solvent | N,N-dimethylformamide | 53 mL | CN(C=O)C | C3H7NO
product | 2-methoxy-4-(2-pyridylmethoxy)benzaldehyde | 11.5 g, 82% yield | COC1=C(C=O)C=CC(=C1)OCC1=NC=CC=C1 | C14H13NO3
